US08106045B2
Hydrogen chloride in ethyl acetate solution (4N) was added to a solution of tert-butyl (2S)-2-(4-(3-(pyrrolidin-1-yl)propyloxy)phenyl)morpholine-4-carboxylate (1.13 g, 2.89 mmol) in methanol. The mixture was stirred for one hour at room temperature and the solvent was evaporated under reduced pressure to give a white solid, which was recrystallized from ethanol to afford (2S)-2-(4-(3-(pyrrolidin-1-yl)propyloxy)phenyl)morpholine hydrochloride (0.9 g, 86%) as white crystals.

reactant | Hydrogen chloride | Cl | ClH
reactant | tert-butyl (2S)-2-(4-(3-(pyrrolidin-1-yl)propyloxy)phenyl)morpholine-4-carboxylate | 2.89 mmol, 1.13 g | N1(CCCC1)CCCOC1=CC=C(C=C1)[C@H]1CN(CCO1)C(=O)OC(C)(C)C | C22H34N2O4
solvent | ethyl acetate | 4N | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
product | (2S)-2-(4-(3-(pyrrolidin-1-yl)propyloxy)phenyl)morpholine hydrochloride | 0.9 g, 86% | Cl.N1(CCCC1)CCCOC1=CC=C(C=C1)[C@H]1CNCCO1 | InChI=1S/C17H26N2O2.ClH/c1-2-10-19(9-1)11-3-12-20-16-6-4-15(5-7-16)17-14-18-8-13-21-17;/h4-7,17-18H,1-3,8-14H2;1H/t17-;/m1./s1
